US06969711B2
Preparation of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide:
2-[4-[2-(Benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(3-amino-2,6-diisopropylphenyl)acetamide (198 mg, 0.4 mmol) was dissolved in 6% aqueous solution of sulfuric acid (3.4 ml), an aqueous solution (0.8 ml) of sodium nitrite (35 mg, 0.5 mmol) was added thereto at 0° C. and the mixture was stirred at that temperature for 30 minutes. The reaction solution was slowly dropped into a boiling water (40 ml) which was heating and stirring at an external temperature of 140° C. After 10 minutes from the dropping, the reaction solution was allowed to cool, neutralized with sodium bicarbonate and extracted with chloroform. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified by a preparative thin layer chromatography (developing solvent, chloroform:ammonia-saturated methanol=20:1) to provide 178 mg (yield 89%) of the desired compound, which was recrystallized from ethanol-hexane to provide colorless needles.

reactant | 2-[4-[2-(Benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(3-amino-2,6-diisopropylphenyl)acetamide | 0.4 mmol, 198 mg | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)N)C(C)C | C27H37N5O2S
reactant | sodium nitrite | 0.5 mmol, 0.8 ml, 35 mg | N(=O)[O-].[Na+]
reactant | water | 40 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 3.4 ml | S(O)(O)(=O)=O | H2O4S
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide | 178 mg, yield 89% | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)O)C(C)C | C27H36N4O3S
